US04539325
To a stirred mixture of 1.9 parts of (E)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole mononitrate in a mixture of 50 parts of water and 75 parts of trichloromethane was added 1.0 part of potassium carbonate. The whole was stirred till a clear solution was obtained (pH 8-9). The organic layer was separated, dried, filtered and evaporated. The residue was converted into the hydrochloride salt in 4-methyl-2-pentanone, 2,2'-oxybispropane and 2-propanol. The salt was filtered off and dried, yielding 1.5 parts (86%) of (E)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole monohydrochloride; mp. 203.2° C. (compound 24).

reactant | (E)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole mononitrate | [N+](=O)(O)[O-].Cl/C(=C/N1C=NC=C1)/C1=C(C=C(C=C1)Cl)Cl
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | (E)-1-[2-chloro-2-(2,4-dichlorophenyl)ethenyl]-1H-imidazole monohydrochloride | 86% | Cl.Cl/C(=C/N1C=NC=C1)/C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C11H7Cl3N2.ClH/c12-8-1-2-9(10(13)5-8)11(14)6-16-4-3-15-7-16;/h1-7H;1H/b11-6+;
